US06972340B2
methyl N-acetyl-4-amino-3-isopropylphenylalaninate
methyl (2Z)-2-(acetylamino)-3-(4-amino-3-isopropylphenyl)acrylate (752 mg, 2.72 mmole) and 10% Pd/C (143 mg) stirred in ethanol (20 mL) under 1 atmosphere of hydrogen for 16 hours. The mixture was filtered through Celite and the filtrate was concentrated under reduced pressure to provide the titled compound.

reactant | methyl (2Z)-2-(acetylamino)-3-(4-amino-3-isopropylphenyl)acrylate | 2.72 mmole, 752 mg | C(C)(=O)N\C(\C(=O)OC)=C/C1=CC(=C(C=C1)N)C(C)C | C15H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 143 mg | [Pd] | Pd
product | methyl N-acetyl-4-amino-3-isopropylphenylalaninate | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N)C(C)C)C(=O)OC | C15H22N2O3
